US07700641B2
Synthesis of 1-pentyl-7′,8′-dihydro-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxol]-2(1H)-one
Following the procedure as described in EXAMPLE 23, and making non-critical variations using 1-pentyl-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxole]-2,8′(1H,7′H)-dione to replace 1′-pentylspiro[indeno[5,6-d][1,3]dioxole-5,3′-indole]-2′,7(1′H,6H)-dione, the title compound was obtained (69%) as an oil: 1H NMR (300 MHz, CDCl3) δ 7.25 (td, 1H), 7.08-6.94 (m, 2H), 6.90 (d, 1H), 6.60 (s, 1H), 5.89 (s, 1H), 5.81-5.76 (m, 2H), 3.81-3.66 (m, 2H), 2.96-2.77 (m, 2H), 2.38-2.24 (m, 1H), 2.17-2.06 (m, 1H), 2.02-1.83 (m, 2H), 1.78-1.65 (m, 2H), 1.42-1.29 (m, 4H), 0.89 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 180.3, 146.7, 146.1, 142.4, 137.3, 131.6, 127.8, 127.8, 124.1, 122.5, 109.0, 108.3, 107.3, 100.7, 52.0, 40.0, 34.0, 29.4, 29.1, 27.1, 22.4, 18.8, 14.0; MS (ES+) m/z 364.1 (M+1).

reactant | 1-pentyl-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxole]-2,8′(1H,7′H)-dione | C(CCCC)N1C(C2(C3=CC4=C(OCO4)C=C3C(CC2)=O)C2=CC=CC=C12)=O | C23H23NO4
reactant | 1′-pentylspiro[indeno[5,6-d][1,3]dioxole-5,3′-indole]-2′,7(1′H,6H)-dione | C(CCCC)N1C(C2(C3=CC=CC=C13)CC(C1=CC=3OCOC3C=C12)=O)=O | C22H21NO4
product | 1-pentyl-7′,8′-dihydro-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxol]-2(1H)-one | C(CCCC)N1C(C2(C3=CC4=C(OCO4)C=C3CCC2)C2=CC=CC=C12)=O | C23H25NO3
